US04264622
Preparation of dl-2-methyl-5-di-n-propylamino-4,5,6,7-tetrahydroisoindole
2 millimoles (680 mg) of dl-5-di(n-propyl)amino 4,5,6,7-tetrahydro-2H-benzo[c]pyrrole were dissolved in 75 ml. of dimethylacetamide (DMA). 10 millimoles (1.1 g) potassium tertiary-butoxide were added and the resulting mixture stirred for 20 minutes under nitrogen. Next, a solution of 2.1 millimoles of methyl iodide (0.13 ml) in 5 ml. of DMA was added in dropwise fashion. The resulting reaction mixture was stirred at ambient temperature for 5 hours at which time an additional 0.13 ml of methyl iodide was added and the subsequent mixture stirred for an additional 3.5 hours. The reaction mixture was then diluted with water and the aqueous layer extracted with ethyl acetate. The ethyl acetate layer was separated and washed with water followed by saturated aqueous sodium chloride. The ethyl acetate layer was then dried and the ethyl acetate removed therefrom by evaporation. An ether solution of the resulting residue was chromatographed over 35 g. of Florisil using ether as the eluant. Fractions shown by TLC to contain dl-2-methyl-5-di-n-propylamino- 4,5,6,7-2H-benzo[c]pyrrole were combined and the solvent removed therefrom in vacuo. NMR of the residue thus obtained indicated that the dl-2-methyl-5-di-n-propylamino-4,5,6,7-2H-benzo[c]pyrrole had been prepared.

reactant | dl-5 di(n-propyl)amino 4,5,6,7-tetrahydro-2H-benzo[c]pyrrole | 2 millimoles, 680 mg | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(CC)N(CCC)C=1NC=C2C1CCCC2
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | potassium tertiary-butoxide | 10 millimoles, 1.1 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 2.1 millimoles, 0.13 ml | CI | CH3I
reactant | methyl iodide | 0.13 ml | CI | CH3I
solvent | water | O | H2O
product | 2-methyl-5-di-n-propylamino-4,5,6,7-tetrahydroisoindole | CN1C=C2CCC(CC2=C1)N(CCC)CCC | C15H26N2
